US04436748
To a solution of 6.0 g of 6,7-dichloro-2-formyl-5-hydroxybenzo[b]thiophene and 300 ml of 90% ethanol is added portionwise 1.5 g of sodium borohydride. The reaction mixture is stirred at room temperature for 20 min. Saturated sodium chloride solution is added and the mixture is extracted three times with ethyl acetate:ether (1:1). The combined organic extracts are washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated to give 4.5 g of 6,7-dichloro-5-hydroxy-2-hydroxymethylbenzo[b]thiophene, mp 167°-169°.

reactant | 6,7-dichloro-2-formyl-5-hydroxybenzo[b]thiophene | 6.0 g | ClC=1C(=CC2=C(SC(=C2)C=O)C1Cl)O | C9H4Cl2O2S
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6,7-dichloro-5-hydroxy-2-hydroxymethylbenzo[b]thiophene | 4.5 g | ClC=1C(=CC2=C(SC(=C2)CO)C1Cl)O | C9H6Cl2O2S
